.title kicad schematic

.include half_adder.sub
.include full_adder.sub
* u35 net-_u12-pad2_ net-_u29-pad1_ net-_u35-pad3_ d_and
* u44 o0 plot_v1
* u45 o1 plot_v1
* u36 net-_u35-pad3_ o0 dac_bridge_1
* u37 net-_u37-pad1_ o1 dac_bridge_1
* u38 net-_u38-pad1_ o2 dac_bridge_1
* u46 o2 plot_v1
x11 net-_u29-pad3_ net-_x10-pad5_ net-_x11-pad3_ net-_u39-pad1_ net-_x11-pad5_ full_adder
x12 net-_u30-pad2_ net-_x11-pad5_ net-_x12-pad3_ net-_u40-pad1_ net-_x12-pad5_ full_adder
* u16 net-_u16-pad1_ net-_u13-pad2_ net-_u16-pad3_ d_xor
* u13 net-_u13-pad1_ net-_u13-pad2_ adc_bridge_1
v5 net-_u13-pad1_ gnd pulse(5 5 0 10n 10n 4m 8m)
x7 net-_x12-pad5_ net-_x6-pad5_ net-_x1-pad4_ net-_u41-pad1_ net-_x3-pad1_ full_adder
* u9 net-_u10-pad1_ net-_u17-pad2_ net-_u9-pad3_ d_and
x1 net-_u17-pad3_ net-_x1-pad2_ net-_u10-pad3_ net-_x1-pad4_ net-_x1-pad5_ full_adder
x3 net-_x3-pad1_ net-_x1-pad5_ net-_u9-pad3_ net-_u42-pad1_ net-_u16-pad1_ full_adder
* u17 net-_u17-pad1_ net-_u17-pad2_ net-_u17-pad3_ d_nand
x6 net-_u24-pad3_ net-_x5-pad5_ net-_x2-pad4_ net-_x12-pad3_ net-_x6-pad5_ full_adder
* u24 net-_u23-pad2_ net-_u17-pad2_ net-_u24-pad3_ d_nand
* u42 net-_u42-pad1_ o6 dac_bridge_1
* u50 o6 plot_v1
* u43 net-_u16-pad3_ o7 dac_bridge_1
* u51 o7 plot_v1
* u41 net-_u41-pad1_ o5 dac_bridge_1
* u48 o4 plot_v1
* u40 net-_u40-pad1_ o4 dac_bridge_1
* u49 o5 plot_v1
* u30 net-_u30-pad1_ net-_u30-pad2_ adc_bridge_1
v10 net-_u30-pad1_ gnd pulse(5 5 0 10n 10n 4m 8m)
* u29 net-_u29-pad1_ net-_u17-pad2_ net-_u29-pad3_ d_nand
* u47 o3 plot_v1
* u39 net-_u39-pad1_ o3 dac_bridge_1
* u10 net-_u10-pad1_ net-_u10-pad2_ net-_u10-pad3_ d_nand
* u8 a3 net-_u17-pad2_ adc_bridge_1
v4 a3 gnd pulse(0 5 0 10n 10n 4m 8m)
* u4 a3 plot_v1
v3 a2 gnd pulse(0 5 0 10n 10n 2m 4m)
* u7 a2 net-_u10-pad2_ adc_bridge_1
* u3 a2 plot_v1
* u11 net-_u10-pad1_ net-_u11-pad2_ net-_u11-pad3_ d_nand
* u25 net-_u11-pad2_ net-_u23-pad2_ net-_u25-pad3_ d_and
* u23 net-_u12-pad2_ net-_u23-pad2_ net-_u23-pad3_ d_and
* u18 net-_u12-pad2_ net-_u17-pad1_ net-_u18-pad3_ d_and
v2 a1 gnd pulse(0 5 0 10n 10n 1m 2m)
v1 a0 gnd pulse(0 5 0 10n 10n 0.5m 1m)
* u12 net-_u10-pad1_ net-_u12-pad2_ net-_u12-pad3_ d_nand
* u5 a0 net-_u12-pad2_ adc_bridge_1
* u6 a1 net-_u11-pad2_ adc_bridge_1
* u2 a1 plot_v1
* u1 a0 plot_v1
x4 net-_u19-pad3_ net-_u12-pad3_ net-_x4-pad3_ net-_x2-pad2_ half_adder
x8 net-_u25-pad3_ net-_u18-pad3_ net-_x10-pad3_ net-_x5-pad2_ half_adder
* u19 net-_u11-pad2_ net-_u17-pad1_ net-_u19-pad3_ d_and
* u31 net-_u10-pad2_ net-_u29-pad1_ net-_u31-pad3_ d_and
x10 net-_u31-pad3_ net-_x10-pad2_ net-_x10-pad3_ net-_u38-pad1_ net-_x10-pad5_ full_adder
* u32 net-_u11-pad2_ net-_u29-pad1_ net-_u32-pad3_ d_and
x9 net-_u32-pad3_ net-_u23-pad3_ net-_u37-pad1_ net-_x10-pad2_ half_adder
x5 net-_u26-pad3_ net-_x5-pad2_ net-_x4-pad3_ net-_x11-pad3_ net-_x5-pad5_ full_adder
* u26 net-_u10-pad2_ net-_u23-pad2_ net-_u26-pad3_ d_and
x2 net-_u20-pad3_ net-_x2-pad2_ net-_u11-pad3_ net-_x2-pad4_ net-_x1-pad2_ full_adder
* u20 net-_u10-pad2_ net-_u17-pad1_ net-_u20-pad3_ d_and
v9 b0 gnd pulse(0 5 0 10n 10n .5m 1m)
* u34 b0 plot_v1
* u33 b0 net-_u29-pad1_ adc_bridge_1
* u21 b2 net-_u17-pad1_ adc_bridge_1
v7 b2 gnd pulse(0 5 0 10n 10n 2m 4m)
* u22 b2 plot_v1
v6 b3 gnd pulse(0 5 0 10n 10n 4m 8m)
* u15 b3 plot_v1
* u14 b3 net-_u10-pad1_ adc_bridge_1
* u27 b1 net-_u23-pad2_ adc_bridge_1
* u28 b1 plot_v1
v8 b1 gnd pulse(0 5 0 10n 10n 1m 2m)
a1 [net-_u12-pad2_ net-_u29-pad1_ ] net-_u35-pad3_ u35
a2 [net-_u35-pad3_ ] [o0 ] u36
a3 [net-_u37-pad1_ ] [o1 ] u37
a4 [net-_u38-pad1_ ] [o2 ] u38
a5 [net-_u16-pad1_ net-_u13-pad2_ ] net-_u16-pad3_ u16
a6 [net-_u13-pad1_ ] [net-_u13-pad2_ ] u13
a7 [net-_u10-pad1_ net-_u17-pad2_ ] net-_u9-pad3_ u9
a8 [net-_u17-pad1_ net-_u17-pad2_ ] net-_u17-pad3_ u17
a9 [net-_u23-pad2_ net-_u17-pad2_ ] net-_u24-pad3_ u24
a10 [net-_u42-pad1_ ] [o6 ] u42
a11 [net-_u16-pad3_ ] [o7 ] u43
a12 [net-_u41-pad1_ ] [o5 ] u41
a13 [net-_u40-pad1_ ] [o4 ] u40
a14 [net-_u30-pad1_ ] [net-_u30-pad2_ ] u30
a15 [net-_u29-pad1_ net-_u17-pad2_ ] net-_u29-pad3_ u29
a16 [net-_u39-pad1_ ] [o3 ] u39
a17 [net-_u10-pad1_ net-_u10-pad2_ ] net-_u10-pad3_ u10
a18 [a3 ] [net-_u17-pad2_ ] u8
a19 [a2 ] [net-_u10-pad2_ ] u7
a20 [net-_u10-pad1_ net-_u11-pad2_ ] net-_u11-pad3_ u11
a21 [net-_u11-pad2_ net-_u23-pad2_ ] net-_u25-pad3_ u25
a22 [net-_u12-pad2_ net-_u23-pad2_ ] net-_u23-pad3_ u23
a23 [net-_u12-pad2_ net-_u17-pad1_ ] net-_u18-pad3_ u18
a24 [net-_u10-pad1_ net-_u12-pad2_ ] net-_u12-pad3_ u12
a25 [a0 ] [net-_u12-pad2_ ] u5
a26 [a1 ] [net-_u11-pad2_ ] u6
a27 [net-_u11-pad2_ net-_u17-pad1_ ] net-_u19-pad3_ u19
a28 [net-_u10-pad2_ net-_u29-pad1_ ] net-_u31-pad3_ u31
a29 [net-_u11-pad2_ net-_u29-pad1_ ] net-_u32-pad3_ u32
a30 [net-_u10-pad2_ net-_u23-pad2_ ] net-_u26-pad3_ u26
a31 [net-_u10-pad2_ net-_u17-pad1_ ] net-_u20-pad3_ u20
a32 [b0 ] [net-_u29-pad1_ ] u33
a33 [b2 ] [net-_u17-pad1_ ] u21
a34 [b3 ] [net-_u10-pad1_ ] u14
a35 [b1 ] [net-_u23-pad2_ ] u27
* Schematic Name:                             d_and, Ngspice Name: d_and
.model u35 d_and(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             dac_bridge_1, Ngspice Name: dac_bridge
.model u36 dac_bridge(out_low=0.0 out_high=5.0 out_undef=0.5 input_load=1.0e-12 t_rise=1.0e-9 t_fall=1.0e-9 ) 
* Schematic Name:                             dac_bridge_1, Ngspice Name: dac_bridge
.model u37 dac_bridge(out_low=0.0 out_high=5.0 out_undef=0.5 input_load=1.0e-12 t_rise=1.0e-9 t_fall=1.0e-9 ) 
* Schematic Name:                             dac_bridge_1, Ngspice Name: dac_bridge
.model u38 dac_bridge(out_low=0.0 out_high=5.0 out_undef=0.5 input_load=1.0e-12 t_rise=1.0e-9 t_fall=1.0e-9 ) 
* Schematic Name:                             d_xor, Ngspice Name: d_xor
.model u16 d_xor(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             adc_bridge_1, Ngspice Name: adc_bridge
.model u13 adc_bridge(in_low=1.0 in_high=2.0 rise_delay=1.0e-9 fall_delay=1.0e-9 ) 
* Schematic Name:                             d_and, Ngspice Name: d_and
.model u9 d_and(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_nand, Ngspice Name: d_nand
.model u17 d_nand(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_nand, Ngspice Name: d_nand
.model u24 d_nand(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             dac_bridge_1, Ngspice Name: dac_bridge
.model u42 dac_bridge(out_low=0.0 out_high=5.0 out_undef=0.5 input_load=1.0e-12 t_rise=1.0e-9 t_fall=1.0e-9 ) 
* Schematic Name:                             dac_bridge_1, Ngspice Name: dac_bridge
.model u43 dac_bridge(out_low=0.0 out_high=5.0 out_undef=0.5 input_load=1.0e-12 t_rise=1.0e-9 t_fall=1.0e-9 ) 
* Schematic Name:                             dac_bridge_1, Ngspice Name: dac_bridge
.model u41 dac_bridge(out_low=0.0 out_high=5.0 out_undef=0.5 input_load=1.0e-12 t_rise=1.0e-9 t_fall=1.0e-9 ) 
* Schematic Name:                             dac_bridge_1, Ngspice Name: dac_bridge
.model u40 dac_bridge(out_low=0.0 out_high=5.0 out_undef=0.5 input_load=1.0e-12 t_rise=1.0e-9 t_fall=1.0e-9 ) 
* Schematic Name:                             adc_bridge_1, Ngspice Name: adc_bridge
.model u30 adc_bridge(in_low=1.0 in_high=2.0 rise_delay=1.0e-9 fall_delay=1.0e-9 ) 
* Schematic Name:                             d_nand, Ngspice Name: d_nand
.model u29 d_nand(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             dac_bridge_1, Ngspice Name: dac_bridge
.model u39 dac_bridge(out_low=0.0 out_high=5.0 out_undef=0.5 input_load=1.0e-12 t_rise=1.0e-9 t_fall=1.0e-9 ) 
* Schematic Name:                             d_nand, Ngspice Name: d_nand
.model u10 d_nand(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             adc_bridge_1, Ngspice Name: adc_bridge
.model u8 adc_bridge(in_low=1.0 in_high=2.0 rise_delay=1.0e-9 fall_delay=1.0e-9 ) 
* Schematic Name:                             adc_bridge_1, Ngspice Name: adc_bridge
.model u7 adc_bridge(in_low=1.0 in_high=2.0 rise_delay=1.0e-9 fall_delay=1.0e-9 ) 
* Schematic Name:                             d_nand, Ngspice Name: d_nand
.model u11 d_nand(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_and, Ngspice Name: d_and
.model u25 d_and(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_and, Ngspice Name: d_and
.model u23 d_and(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_and, Ngspice Name: d_and
.model u18 d_and(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_nand, Ngspice Name: d_nand
.model u12 d_nand(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             adc_bridge_1, Ngspice Name: adc_bridge
.model u5 adc_bridge(in_low=1.0 in_high=2.0 rise_delay=1.0e-9 fall_delay=1.0e-9 ) 
* Schematic Name:                             adc_bridge_1, Ngspice Name: adc_bridge
.model u6 adc_bridge(in_low=1.0 in_high=2.0 rise_delay=1.0e-9 fall_delay=1.0e-9 ) 
* Schematic Name:                             d_and, Ngspice Name: d_and
.model u19 d_and(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_and, Ngspice Name: d_and
.model u31 d_and(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_and, Ngspice Name: d_and
.model u32 d_and(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_and, Ngspice Name: d_and
.model u26 d_and(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_and, Ngspice Name: d_and
.model u20 d_and(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             adc_bridge_1, Ngspice Name: adc_bridge
.model u33 adc_bridge(in_low=1.0 in_high=2.0 rise_delay=1.0e-9 fall_delay=1.0e-9 ) 
* Schematic Name:                             adc_bridge_1, Ngspice Name: adc_bridge
.model u21 adc_bridge(in_low=1.0 in_high=2.0 rise_delay=1.0e-9 fall_delay=1.0e-9 ) 
* Schematic Name:                             adc_bridge_1, Ngspice Name: adc_bridge
.model u14 adc_bridge(in_low=1.0 in_high=2.0 rise_delay=1.0e-9 fall_delay=1.0e-9 ) 
* Schematic Name:                             adc_bridge_1, Ngspice Name: adc_bridge
.model u27 adc_bridge(in_low=1.0 in_high=2.0 rise_delay=1.0e-9 fall_delay=1.0e-9 ) 
.tran 1e-03 8e-03 0e-03

* Control Statements 
.control
run
print allv > plot_data_v.txt
print alli > plot_data_i.txt
plot v(o0)
plot v(o1)
plot v(o2)
plot v(o6)
plot v(o7)
plot v(o4)
plot v(o5)
plot v(o3)
plot v(a3)
plot v(a2)
plot v(a1)
plot v(a0)
plot v(b0)
plot v(b2)
plot v(b3)
plot v(b1)
.endc
.end
